US06485746B1
N-[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide (3.77 kg) is suspended in dimethylformamide (20 L; Van Waters) and the mixture chilled in an ice bath. Sodium hydride (808 g, 60% dispersion; Aldrich) is added to the suspension under a nitrogen atmosphere. The temperature of the reaction mixture is maintained below 10?C. during the addition of the hydride. After the addition is complete the mixture is stirred for 1 hour, then methyl iodide (2.46 kg) is added slowly while maintaining the temperature below 10?C. The reaction mixture is stirred overnight and allowed to come to room temperature. HPLC analysis of the reaction mixture shows 97.7% product and ˜2.3% of the starting material. The addition of methyl iodide (53 g; Aldrich) and continued stirring (5 hours) does not change this ratio. The reaction mixture is quenched by the addition of 1 L of water. The mixture is triturated with hexanes (2×4 L) which are discarded. Most of the DMF is removed under reduced pressure. The residue is diluted with water (6 L) and product is extracted with methylene chloride (20 L; Barton). The solution is dried over sodium sulfate, filtered and the solvent evaporated to give a solid. This material is triturated with hexanes (15 L) and ethyl acetate (15 L). The slurry was cooled to room temperature, filtered and washed with hexanes (0.5 L). This material is found to be only ˜91% product by HPLC (area %). The material is purified by column chromatography. The material is dissolved in methylene chloride and passed through a pad of silica (˜18 kg). The polarity of the eluant is gradually increased by adding ethyl acetate (Barton). Eventually the column is flushed with ethyl acetate. In this manner 2.4 kg of N-[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]-N-methylacetamide is obtained with a purity of 98.05% by HPLC (area %).

reactant | N-[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide | 3.77 kg | CN(C=CC(=O)C=1C=C(C=CC1)NC(C)=O)C | C13H16N2O2
reactant | Sodium hydride | 808 g | [H-].[Na+]
reactant | hydride | [H-]
reactant | methyl iodide | 2.46 kg | CI | CH3I
solvent | dimethylformamide | 20 L | CN(C=O)C | C3H7NO
catalyst | methyl iodide | 53 g | CI | CH3I
product | N-[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]-N-methylacetamide | 2.4 kg | CN(C=CC(=O)C=1C=C(C=CC1)N(C(C)=O)C)C | C14H18N2O2
